US05569655
To a solution of 4 ml (0.04 mol) of 10M n-butyllithium in hexane cooled to -78° C. was added 3.59 ml (0.04 mol) of 3-bromofuran in 100 ml of ether and the mixture was stirred for 10 min. To the above cooled solution was added 5.49 g (0.036 mol) 4,5,6,7-tetrahydro-3-methyl-benzisoxazol-7-one and the mixture was allowed to warm to room temperature, and then stirred for 1 h. To the mixture was added saturated ammonium chloride solution and the resulting mixture was extracted with ethyl acetate (3×100 ml), and the organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo to afford 7.6 g (96%) of 7-(3-furyl)-3-methyl-4,5,6,7-tetrahydrobenzisoxazol-7-ol, as a brown oil.

reactant | n-butyllithium | 0.04 mol, 10M, 4 ml | C(CCC)[Li]
reactant | 3-bromofuran | 0.04 mol, 3.59 ml | BrC1=COC=C1 | C4H3BrO
reactant | 4,5,6,7-tetrahydro-3-methyl-benzisoxazol-7-one | 0.036 mol, 5.49 g | CC1=NOC2=C1CCCC2=O | C8H9NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 100 ml | CCOCC | C4H10O
product | 7-(3-furyl)-3-methyl-4,5,6,7-tetrahydrobenzisoxazol-7-ol | 7.6 g, 96% | O1C=C(C=C1)C1(CCCC=2C(=NOC21)C)O | C12H13NO3
